US05304532
(i) Preparation of 3-carboxy,4-fluorobenzotrifluoride
To a solution of 4-fluorobenzotrifluoride (75 ml) in tetrahydrofuran (570 ml) under a nitrogen atmosphere and at a temperature of approximately -60° C. was added butyl lithium (25N, 200 ml) over a period of one hour. The reaction mixture was stirred at from -70° to -60° C. for four hours and then was poured over an excess of dry ice. After fifteen minutes the excess dry ice was evaporated and the solvent removed to leave a residue. The residue was taken up in water (500 ml) and sodium hydroxide (1N, 30 ml) prior to washing with ethyl acetate (2×300 ml). The aqueous phase was acidified with concentrated hydrochloric acid and extracted with ethyl acetate (2x300 ml). Finally, the combined organic extracts were washed with water (500 ml), dried and then evaporated to yield a crude residue which, upon recrystallisation from toluene/hexane, gave the title compound as a solid (77 g, 0.37 mol, 81% yield).

reactant | 4-fluorobenzotrifluoride | 75 ml | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | butyl lithium | 25N, 200 ml | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
solvent | tetrahydrofuran | 570 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | 3-carboxy,4-fluorobenzotrifluoride | 0.37 mol, 77 g, 81% yield | C(=O)(O)C=1C=C(C=CC1F)C(F)(F)F | C8H4F4O2
